### PR TITLE
[Merged by Bors] - feat(RingTheory): coalgebra definition

### PR DESCRIPTION
**Pull request by al-ramsey**
Add definition and example of a coalgebra.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Coalgebra.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+  ε_id : TensorProduct.lid R A ∘ₗ TensorProduct.map ε .id ∘ₗ Δ = .id
+  /-- The counit satisfies the right counitality law -/
+  id_ε : TensorProduct.rid R A ∘ₗ TensorProduct.map .id ε ∘ₗ Δ = .id
+
+/-- The `R`-module whose elements are functions `S → R` which are zero on all but finitely many
+elements of `S` has a coalgebra structure. The coproduct is given by `Δ(fₛ) = fₛ ⊗ fₛ` and the
+counit by `ε(fₛ) =  1`, where `fₛ` is the function sending `s` to `1` and all other elements of `S`
+to zero. -/
+noncomputable
+def Finsupp.Coalgebra (R : Type u) (S : Type v) [CommRing R] : Coalgebra R (S →₀ R) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:36]: Is this in some reasonable sense "canonical"? If so, it should probably be an `instance`

File: Mathlib/RingTheory/Coalgebra.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+
+/-- A coalgebra over a commutative ring `R` is a module over `R` equipped with a coassociative
+comultiplication `Δ` and a counit `ε` obeying the left and right conunitality laws. -/
+class Coalgebra (R : Type u) (A : Type v) [CommRing R] [AddCommGroup A] [Module R A] where
+  /-- The comultiplication of the coalgebra -/
+  Δ : A →ₗ[R] A ⊗[R] A
+  /-- The counit of the coalgebra -/
+  ε : A →ₗ[R] R
+  /-- The comultiplication is coassociative -/
+  coassoc : TensorProduct.assoc R A A A ∘ₗ TensorProduct.map Δ .id ∘ₗ Δ =
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:24]: You should add some lemmas after this `class` that state the applied versions.

**Review by eric-wieser — COMMENTED** [review]
This looks like a great start; I'm glad to see this migrate from zulip to a PR!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+    TensorProduct.map .id Δ ∘ₗ Δ
+  /-- The counit satisfies the left counitality law -/
+  ε_id : TensorProduct.lid R A ∘ₗ TensorProduct.map ε .id ∘ₗ Δ = .id
+  /-- The counit satisfies the right counitality law -/
+  id_ε : TensorProduct.rid R A ∘ₗ TensorProduct.map .id ε ∘ₗ Δ = .id
+
+/-- The `R`-module whose elements are functions `S → R` which are zero on all but finitely many
+elements of `S` has a coalgebra structure. The coproduct is given by `Δ(fₛ) = fₛ ⊗ fₛ` and the
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:32]: `Δ(fₛ) = fₛ ⊗ fₛ` looks like it would make a good `lemma`; can you try to prove it?

**Comment by eric-wieser** [comment]
A nice second example might be https://math.stackexchange.com/a/3694952/1896

File: Mathlib/RingTheory/Coalgebra.lean (hunk 2 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:24]: Just to check: something like  
```lean
@[simp]
theorem coassoc_apply {R : Type u} {A : Type v} [CommRing R] [AddCommGroup A] [Module R A]
    [C : Coalgebra R A] (a : A) : (TensorProduct.assoc R A A A ∘ₗ TensorProduct.map C.Δ .id ∘ₗ C.Δ) a =
    (TensorProduct.map .id C.Δ ∘ₗ C.Δ) a := by
  exact LinearMap.congr_fun C.coassoc a
```
for each of the conditions in the definition?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:24]: Not quite; the same proof, but the statement should be `∘ₗ`-free:
```lean
TensorProduct.assoc R A A A (TensorProduct.map C.Δ .id (C.Δ a)) = TensorProduct.map .id C.Δ (C.Δ a)
```

Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:24]: Thank you! What's the etiquette on resolving conversations? I think I've added the lemmas correctly in the latest commit, but obviously I might be wrong and have made a mistake. Would I still resolve it and if I was wrong a new conversion would be opened?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:24]: I don't know if we have a hard rule here; but I'd usually say it's fine for you to resolve things, especially if you add a comment saying "done" or similar at the same time

File: Mathlib/RingTheory/Coalgebra.lean [hunk 4]
```diff
@@ -0,0 +1,64 @@
...
+
+@[simp]
+theorem ε_id_apply {R : Type u} {A : Type v} [CommRing R] [AddCommGroup A] [Module R A]
+    [C : Coalgebra R A] (a : A) : TensorProduct.lid R A (TensorProduct.map C.ε .id (C.Δ a)) = a :=
+    LinearMap.congr_fun C.ε_id a
+
+@[simp]
+theorem id_ε_apply {R : Type u} {A : Type v} [CommRing R] [AddCommGroup A] [Module R A]
+    [C : Coalgebra R A] (a : A) : TensorProduct.rid R A (TensorProduct.map .id C.ε (C.Δ a)) = a :=
+    LinearMap.congr_fun C.id_ε a
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:46]: This looks like a good use-case for `variable`:
```suggestion
variable {R : Type u} {A : Type v}
variable [CommRing R] [AddCommGroup A] [Module R A] [C : Coalgebra R A]

@[simp]
theorem coassoc_apply (a : A) : TensorProduct.assoc R A A A (TensorProduct.map C.Δ .id (C.Δ a)) =
    TensorProduct.map .id C.Δ (C.Δ a) := LinearMap.congr_fun C.coassoc a

@[simp]
theorem ε_id_apply (a : A) : TensorProduct.lid R A (TensorProduct.map C.ε .id (C.Δ a)) = a :=
    LinearMap.congr_fun C.ε_id a

@[simp]
theorem id_ε_apply (a : A) : TensorProduct.rid R A (TensorProduct.map .id C.ε (C.Δ a)) = a :=
    LinearMap.congr_fun C.id_ε a
```

File: Mathlib/RingTheory/Coalgebra.lean [hunk 5]
```diff
@@ -0,0 +1,64 @@
...
+  /-- The counit satisfies the left counitality law -/
+  ε_id : TensorProduct.lid R A ∘ₗ TensorProduct.map ε .id ∘ₗ Δ = .id
+  /-- The counit satisfies the right counitality law -/
+  id_ε : TensorProduct.rid R A ∘ₗ TensorProduct.map .id ε ∘ₗ Δ = .id
+
+namespace Coalgebra
+
+@[simp]
+theorem coassoc_apply {R : Type u} {A : Type v} [CommRing R] [AddCommGroup A] [Module R A]
+    [C : Coalgebra R A] (a : A) : TensorProduct.assoc R A A A (TensorProduct.map C.Δ .id (C.Δ a)) =
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:35]: This raises that something a big ugly is going on here; for algebras, we wouldn't usually write `Alg.algebraMap r` (where `Alg : Algebra R A`), we write `algebraMap R A` instead.

One (ugly) option would be to repeat this pattern, and rename `Δ` to `Δ'` so that you can then `def Δ := Δ'`, but with an explicit `R` variable.

You might also be able to get away with `Δ (R := R)` instead of `C.Δ` without changing anything else, which we didn't have as an option when `Algebra` was designed.

Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean]: I think since I added the `namespace Coalgebra` I can replace `C : Coalgebra R A` with just `Coalgebra R A` and `C.Δ` with just `Δ` and it seems to work fine? But then in general, if I had theorems involving `[Coalgebra R A]` outside of the namespace, would I want to have 
```
def Δ (R : Type u) {A : Type v} [CommRing R] [Ring A] [Module R A] [C : Coalgebra R A] := C.Δ
```
just before them? (I did try `Δ (R := R)` but I couldn't get it working.)

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: I don'f fully understand what you mean, but if you have a version with fewer `C.`s, feel free to push it.

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: Ah, now I see: this is great, but I think the comment above will bite you eventually. In your case, Lean can work out `R` because it's an argument to `TensorProduct.assoc`. In general though, Lean might force you to write extra type annotations.

I think it's reasonable to leave it as is for now; but I predict you will end up running into this problem again in a future PR, and at that point we should revisit it.

File: Mathlib/RingTheory/Coalgebra.lean (hunk 3 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:55]: I might have misunderstood you here (isn't it true almost by definition?) but I've added this in the latest commit.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 6]
```diff
@@ -66,3 +66,8 @@ instance Finsupp.instCoalgebra (R : Type u) (S : Type v) [CommRing R] : Coalgebr
     ext; simp
   id_ε := by
     ext; simp
+
+theorem Finsupp.Δ_basis (R : Type u) (S : Type v) [CommRing R] (s : S) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:70]: Following the [naming guide](https://leanprover-community.github.io/contribute/naming.html), we usually name things quite literally whenever we can.
```suggestion
theorem Finsupp.Δ_single_one (R : Type u) (S : Type v) [CommRing R] (s : S) :
```
I also recommend putting these in a `section` (or better yet, `namespace Finsupp`, and hoisting `R` and `S`  to a `variable` line at the start of the section.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 7]
```diff
@@ -0,0 +1,73 @@
...
+
+/-- The `R`-module whose elements are functions `S → R` which are zero on all but finitely many
+elements of `S` has a coalgebra structure. The coproduct is given by `Δ(fₛ) = fₛ ⊗ fₛ` and the
+counit by `ε(fₛ) =  1`, where `fₛ` is the function sending `s` to `1` and all other elements of `S`
+to zero. -/
+noncomputable
+instance Finsupp.instCoalgebra (R : Type u) (S : Type v) [CommRing R] : Coalgebra R (S →₀ R) where
+  Δ := Finsupp.total S ((S →₀ R) ⊗[R] (S →₀ R)) R
+    (fun s ↦ Finsupp.single s 1 ⊗ₜ Finsupp.single s 1)
+  ε := Finsupp.total S R R (fun _ ↦ 1)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:62]: Can you add a lemma about `ε (Finsupp.single s r)`? (It's equal to `r`, right?)

File: Mathlib/RingTheory/Coalgebra.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:55]: Things which are true almost by definition are precisely the first lemmas that you should be writing! What you have is exactly what I meant.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 8]
```diff
@@ -0,0 +1,86 @@
...
+  ε_id := by
+    ext; simp
+  id_ε := by
+    ext; simp
+
+theorem Δ_single_one (s : S) : (instCoalgebra R S).Δ (Finsupp.single s 1) =
+    (Finsupp.single s 1) ⊗ₜ[R] (Finsupp.single s 1) := by
+  unfold Coalgebra.Δ; unfold instCoalgebra; simp
+
+theorem ε_single_r (s : S) (r : R) : (instCoalgebra R S).ε (Finsupp.single s r) = r := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:81]: Theorem names shouldn't mention the names of their variables, because the caller doesn't care about those:
```suggestion
theorem ε_single (s : S) (r : R) : (instCoalgebra R S).ε (Finsupp.single s r) = r := by
```

File: Mathlib/RingTheory/Coalgebra.lean [hunk 9]
```diff
@@ -0,0 +1,86 @@
...
+  ε := Finsupp.total S R R (fun _ ↦ 1)
+  coassoc := by
+    ext; simp
+  ε_id := by
+    ext; simp
+  id_ε := by
+    ext; simp
+
+theorem Δ_single_one (s : S) : (instCoalgebra R S).Δ (Finsupp.single s 1) =
+    (Finsupp.single s 1) ⊗ₜ[R] (Finsupp.single s 1) := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:78]: I think this is true more generally as
```suggestion
theorem Δ_single (s : S) (r : R) : (instCoalgebra R S).Δ (Finsupp.single s r) =
    Finsupp.single s r ⊗ₜ[R] Finsupp.single s 1 := by
```

File: Mathlib/RingTheory/Coalgebra.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+  unfold Coalgebra.Δ; unfold instCoalgebra; simp
+
+theorem ε_single (s : S) (r : R) : (instCoalgebra R S).ε (Finsupp.single s r) = r := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:81]: You shouldn't have to write `(instCoalgebra R S).` here:
```suggestion
theorem ε_single (s : S) (r : R) : ε (Finsupp.single s r) = r := by
```
Same above for `Δ`

Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:82]: Oh, I guess it's because I'm not in the `Coalgebra` namespace anymore? `Coalgebra.` seems to work, but it's not much of an improvement

File: Mathlib/RingTheory/Coalgebra.lean (hunk 9 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean]: I think I've got this proven now

File: Mathlib/RingTheory/Coalgebra.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:82]: You can do `open Coalgebra` just before `namespace Finsupp`.

**Comment by eric-wieser** [comment]
> Another good instance to add would be `Coalgebra R R`, which I think is true with the obvious maps.

In case you missed it; I think it would be a good idea to include this in this PR too.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 11]
```diff
@@ -0,0 +1,97 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ali Ramsey
+-/
+import Mathlib.RingTheory.TensorProduct
+import Mathlib.LinearAlgebra.TensorProduct
+
+/-!
+# Definition and example of a coalgebra
+-/
+
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:12]:
```suggestion

suppress_compilation

```
will fix the error below.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 12]
```diff
@@ -0,0 +1,97 @@
...
+theorem ε_single (s : S) (r : R) : ε (Finsupp.single s r) = r := by
+  unfold ε; unfold instCoalgebra; simp
+
+end CommRing
+
+end Finsupp
+
+instance (R : Type u) [CommRing R] : Coalgebra R R where
+  Δ := (TensorProduct.mk R R R) 1
+  ε := .id
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:94]: Don't forget to add lemmas for these too!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 13]
```diff
@@ -0,0 +1,97 @@
...
+  rw [TensorProduct.smul_tmul', smul_single_one s r]
+
+theorem ε_single (s : S) (r : R) : ε (Finsupp.single s r) = r := by
+  unfold ε; unfold instCoalgebra; simp
+
+end CommRing
+
+end Finsupp
+
+instance (R : Type u) [CommRing R] : Coalgebra R R where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:92]: A good name for this would be
```suggestion
instance (R : Type u) [CommRing R] CommRing.toCoalgebra : Coalgebra R R where
```

File: Mathlib/RingTheory/Coalgebra.lean (hunk 11 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:12]: Ah ok thanks. Why was I getting that error, out of interest?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:11]: We disabled compilation (i.e., making actual real programs that run) for tensor products because it took too long, and we were never using the output anyway. The error is telling you "this function was never compiled".

File: Mathlib/RingTheory/Coalgebra.lean [hunk 14]
```diff
@@ -0,0 +1,98 @@
...
+
+/-- The `R`-module whose elements are functions `S → R` which are zero on all but finitely many
+elements of `S` has a coalgebra structure. The coproduct is given by `Δ(fₛ) = fₛ ⊗ fₛ` and the
+counit by `ε(fₛ) =  1`, where `fₛ` is the function sending `s` to `1` and all other elements of `S`
+to zero. -/
+noncomputable
+instance instCoalgebra : Coalgebra R (S →₀ R) where
+  Δ := Finsupp.total S ((S →₀ R) ⊗[R] (S →₀ R)) R
+    (fun s ↦ Finsupp.single s 1 ⊗ₜ Finsupp.single s 1)
+  ε := Finsupp.total S R R (fun _ ↦ 1)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:73]: I was originally trying to steer you towards:
```lean
instance instCoalgebra [Coalgebra R A] : Coalgebra R (S →₀ A) where
  Δ := Finsupp.lsum R fun s => TensorProduct.map (Finsupp.lsingle s) (Finsupp.lsingle s) ∘ₗ Δ
  ε := Finsupp.lsum R fun s => ε
```
but I'm no longer sure if this is true, and if it is, proving it seems really awful!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 15]
```diff
@@ -0,0 +1,116 @@
...
+
+@[simp]
+theorem Δ_apply (r : R) : Δ r = 1 ⊗ₜ[R] r := rfl
+
+@[simp]
+theorem ε_apply (r : R) : ε r = r := rfl
+
+end CommRing
+
+end CommRing
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:116]: nit: I'd put this one before the `Finsupp` instance, it's more basic

File: Mathlib/RingTheory/Coalgebra.lean [hunk 16]
```diff
@@ -0,0 +1,116 @@
+/-
+Copyright (c) 2023 Ali Ramsey. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ali Ramsey
+-/
+import Mathlib.RingTheory.TensorProduct
+
+/-!
+# Definition and example of a coalgebra
+-/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:10]: Ideally we'd have a longer docstring; a good start would be
```suggestion
/-!
# Coalgebras

In this file we define `Coalgebra`, and provide instances for:

* Commutative rings: `CommRing.toCoalgebra`
* Finitely supported functions: `Finsupp.instCoalgebra`

## References

* Some ncatlab / wikipedia / bourbaki / ... reference of your choosing
-/
```
I think @adamtopaz can probably suggest something a little more in depth

File: Mathlib/RingTheory/Coalgebra.lean [hunk 17]
```diff
@@ -0,0 +1,111 @@
...
+theorem Δ_apply (r : R) : Δ r = 1 ⊗ₜ[R] r := rfl
+
+@[simp]
+theorem ε_apply (r : R) : ε r = r := rfl
+
+end CommRing
+
+namespace Finsupp
+
+variable (S : Type v)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:81]: A minor thing: normally we reserve `S` for rings or semirings. For arbitrary index types, we tend to prefer `ι` (and `i : ι` instead of `s : S` below):
```suggestion
variable (ι : Type v)
```

**Comment by kbuzzard** [comment]
> A nice second example might be https://math.stackexchange.com/a/3694952/1896; I think that would make clear why I suggest the applied lemmas above.

I agree but right now we don't need this so it could wait for another PR.

File: Mathlib/RingTheory/Coalgebra.lean (hunk 14 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Coalgebra.lean]: I'm also not sure if this is true. I tried to think about it geometrically but just ended up confused. Interesting question!

File: Mathlib/RingTheory/Coalgebra.lean (hunk 16 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Coalgebra.lean:10]: I agree that a better module docstring would be more desirable -- this is the first thing people see in the docs when they navigate to the coalgebra page so it should reflect the contents of the file.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 18]
```diff
@@ -0,0 +1,116 @@
...
+class Coalgebra (R : Type u) (A : Type v) [CommRing R] [AddCommGroup A] [Module R A] where
+  /-- The comultiplication of the coalgebra -/
+  Δ : A →ₗ[R] A ⊗[R] A
+  /-- The counit of the coalgebra -/
+  ε : A →ₗ[R] R
+  /-- The comultiplication is coassociative -/
+  coassoc : TensorProduct.assoc R A A A ∘ₗ TensorProduct.map Δ .id ∘ₗ Δ =
+    TensorProduct.map .id Δ ∘ₗ Δ
+  /-- The counit satisfies the left counitality law -/
+  ε_id : TensorProduct.lid R A ∘ₗ TensorProduct.map ε .id ∘ₗ Δ = .id
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:29]: (the difference is a single application of `(TensorProduct.lid R A).eq_symm_apply`)

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:38]: No, that would be `id_ε : TensorProduct.map .id ε ∘ₗ Δ = (TensorProduct.mk R A R).flip 1`; for `ext`, it's very important that it's an equality of maps, not just functions.

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Coalgebra.lean:38]: I agree with Eric here, I think there is a slight advantage to what he proposes.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 19]
```diff
@@ -0,0 +1,120 @@
...
+
+suppress_compilation
+
+universe u v
+
+open scoped TensorProduct
+
+/-- A coalgebra over a commutative ring `R` is a module over `R` equipped with a coassociative
+comultiplication `Δ` and a counit `ε` obeying the left and right conunitality laws. -/
+class Coalgebra (R : Type u) (A : Type v) [CommRing R] [AddCommGroup A] [Module R A] where
```
Comment (ocfnash) [inline Mathlib/RingTheory/Coalgebra.lean:29]:
```suggestion
class Coalgebra (R A : Type*) [CommRing R] [AddCommGroup A] [Module R A] where
```

File: Mathlib/RingTheory/Coalgebra.lean [hunk 20]
```diff
@@ -0,0 +1,120 @@
...
+  ε_id : TensorProduct.lid R A ∘ₗ TensorProduct.map ε .id ∘ₗ Δ = .id
+  /-- The counit satisfies the right counitality law -/
+  id_ε : TensorProduct.rid R A ∘ₗ TensorProduct.map .id ε ∘ₗ Δ = .id
+
+namespace Coalgebra
+
+section CommRingAddCommGroup
+
+variable {R : Type u} {A : Type v}
+variable [CommRing R] [AddCommGroup A] [Module R A] [Coalgebra R A]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Coalgebra.lean:47]: At least for now I think the section `CommRingAddCommGroup` is overkill, I suggest just:
```suggestion
variable {R A : Type*} [CommRing R] [AddCommGroup A] [Module R A] [Coalgebra R A]
```

File: Mathlib/RingTheory/Coalgebra.lean [hunk 21]
```diff
@@ -0,0 +1,120 @@
...
+
+universe u v
+
+open scoped TensorProduct
+
+/-- A coalgebra over a commutative ring `R` is a module over `R` equipped with a coassociative
+comultiplication `Δ` and a counit `ε` obeying the left and right conunitality laws. -/
+class Coalgebra (R : Type u) (A : Type v) [CommRing R] [AddCommGroup A] [Module R A] where
+  /-- The comultiplication of the coalgebra -/
+  Δ : A →ₗ[R] A ⊗[R] A
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Coalgebra.lean:31]: Note that changing the field names will mean you should also change various lemma names below to contain `comul` and `counit` rather than `Δ` and `ε`

**Review by ocfnash — COMMENTED** [review]
Thank you for this PR, it's great that coalgebras (and I hope Hopf algebras!) are finally arriving.

I have left some suggestions (mostly nitpicks, but I think worth following).

Note that first PRs are always the hardest, especially if they contain new definitions: you should definitely expect future PRs to be much more fun :-)

I'll look again as soon as you've addressed the open suggestions but please feel free to ping me here or on Zulip if you have questions.

File: Mathlib/RingTheory/Coalgebra.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:47]: Or even `[CommSemiring R] [AddCommMonoid A]`...

File: Mathlib/RingTheory/Coalgebra.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:38]: If `(TensorProduct.mk R A R).flip` looks ugly, `(TensorProduct.rid R A).symm` would also be fine; but I don't think that's really an improvement.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 22]
```diff
@@ -0,0 +1,120 @@
...
+namespace Coalgebra
+
+section CommRingAddCommGroup
+
+variable {R : Type u} {A : Type v}
+variable [CommRing R] [AddCommGroup A] [Module R A] [Coalgebra R A]
+
+@[simp]
+theorem coassoc_apply (a : A) : TensorProduct.assoc R A A A (TensorProduct.map Δ .id (Δ a)) =
+    TensorProduct.map .id Δ (Δ a) := LinearMap.congr_fun coassoc a
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: I took the liberty of pushing a commit that rewrites these to `.lTensor` and `.rTensor`, which is defeq but much shorter to write.

[the remark this answers is not in the document]
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean]: Thank you!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 23]
```diff
@@ -0,0 +1,120 @@
...
+  /-- The comultiplication of the coalgebra -/
+  comul : A →ₗ[R] A ⊗[R] A
+  /-- The counit of the coalgebra -/
+  counit : A →ₗ[R] R
+  /-- The comultiplication is coassociative -/
+  coassoc : TensorProduct.assoc R A A A ∘ₗ comul.rTensor A ∘ₗ comul = comul.lTensor A ∘ₗ comul
+  /-- The counit satisfies the left counitality law -/
+  counit_id : TensorProduct.lid R A ∘ₗ counit.rTensor A ∘ₗ comul = .id
+  /-- The counit satisfies the right counitality law -/
+  id_counit : TensorProduct.rid R A ∘ₗ counit.lTensor A ∘ₗ comul = .id
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:39]: Note that https://github.com/leanprover-community/mathlib4/pull/8621#discussion_r1408558962 still applies here, as
```suggestion
  /-- The counit satisfies the left counitality law -/
  counit_id : counit.rTensor A ∘ₗ comul = TensorProduct.mk R _ _ 1
  /-- The counit satisfies the right counitality law -/
  id_counit : counit.lTensor A ∘ₗ comul = (TensorProduct.mk R _ _).flip 1
```

At this point it would probably make sense to rename the fields to` rTensor_counit_comp_comul` and `lTensor_counit_comp_comul`

File: Mathlib/RingTheory/Coalgebra.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: See https://github.com/leanprover-community/mathlib4/pull/8621#discussion_r1414134327 for the updated version of this suggestion.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 24]
```diff
@@ -0,0 +1,120 @@
...
+namespace Coalgebra
+
+section CommRingAddCommGroup
+
+variable {R : Type u} {A : Type v}
+variable [CommRing R] [AddCommGroup A] [Module R A] [Coalgebra R A]
+
+@[simp]
+theorem coassoc_apply (a : A) :
+    TensorProduct.assoc R A A A (comul.rTensor A (comul a)) = comul.lTensor A (comul a) :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:50]: It would be good to also prove
```lean
    (TensorProduct.assoc R A A A).symm (comul.lTensor A (comul a)) = comul.rTensor A (comul a) :=
```

File: Mathlib/RingTheory/Coalgebra.lean (hunk 23 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:39]: When I change these, should I change the statements of the lemmas that apply them, or keep the same statements and change the proofs?

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:39]: You should probably do both: add new lemmas with the new statements (which probably work with effectively the same old proofs), but also keep the old ones, with new proofs. The old statements should follow trivially from the new ones

File: Mathlib/RingTheory/Coalgebra.lean (hunk 24 above)
Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean:50]: Ah, that makes things easier...

File: Mathlib/RingTheory/Coalgebra.lean [hunk 25]
```diff
@@ -0,0 +1,125 @@
...
+  LinearMap.congr_fun coassoc a
+
+@[simp]
+theorem coassoc_symm_apply (a : A) :
+    (TensorProduct.assoc R A A A).symm (comul.lTensor A (comul a)) = comul.rTensor A (comul a) := by
+  rw [(TensorProduct.assoc R A A A).symm_apply_eq, coassoc_apply a]
+
+@[simp]
+theorem counit_id_apply (a : A) : counit.rTensor A (comul a) = TensorProduct.mk R _ _ 1 a :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:59]: The RHS simplifies further here; can you write the simplified form?

One way you can find out is to start the proof with `dsimp`, then replace the RHS with the version after `dsimp`.

Same for the lemma below.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 26]
```diff
@@ -0,0 +1,125 @@
...
+@[simp]
+theorem coassoc_apply (a : A) :
+    TensorProduct.assoc R A A A (comul.rTensor A (comul a)) = comul.lTensor A (comul a) :=
+  LinearMap.congr_fun coassoc a
+
+@[simp]
+theorem coassoc_symm_apply (a : A) :
+    (TensorProduct.assoc R A A A).symm (comul.lTensor A (comul a)) = comul.rTensor A (comul a) := by
+  rw [(TensorProduct.assoc R A A A).symm_apply_eq, coassoc_apply a]
+
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:57]: Can you also add the theorem that `(TensorProduct.assoc R A A A).symm ∘ₗ comul.lTensor A ∘ₗ comul = comul.rTensor A ∘ₗ comul`? It should follow from the lemma you just proved.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 27]
```diff
@@ -0,0 +1,128 @@
...
+    comul.rTensor A ∘ₗ (comul (R := R)) := by
+  ext a; exact coassoc_symm_apply a
+
+@[simp]
+theorem rTensor_counit_comul (a : A) : counit.rTensor A (comul a) = 1 ⊗ₜ[R] a :=
+  LinearMap.congr_fun rTensor_counit_comp_comul a
+
+@[simp]
+theorem lTensor_counit_comul (a : A) : counit.lTensor A (comul a) = a ⊗ₜ[R] 1 :=
+  LinearMap.congr_fun lTensor_counit_comp_comul a
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra.lean:70]: These look good now, thanks!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 28]
```diff
@@ -0,0 +1,120 @@
...
+
+## References
+
+* <https://en.wikipedia.org/wiki/Coalgebra>
+-/
+
+suppress_compilation
+
+universe u v
+
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean:24]: @al-ramsey - just checking you saw this. I think both spellings are fine, but you should certainly be aware of `Type*`.

**Review by eric-wieser — APPROVED** [review]
LGTM, thanks for the final iteration!

File: Mathlib/RingTheory/Coalgebra.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: I pushed a change with that generalization

Comment (al-ramsey) [reply Mathlib/RingTheory/Coalgebra.lean]: Thank you!

File: Mathlib/RingTheory/Coalgebra.lean [hunk 29]
```diff
@@ -0,0 +1,120 @@
...
+instance instCoalgebra : Coalgebra R (ι →₀ R) where
+  comul := Finsupp.total ι ((ι →₀ R) ⊗[R] (ι →₀ R)) R (fun i ↦ .single i 1 ⊗ₜ .single i 1)
+  counit := Finsupp.total ι R R (fun _ ↦ 1)
+  coassoc := by ext; simp
+  rTensor_counit_comp_comul := by ext; simp
+  lTensor_counit_comp_comul := by ext; simp
+
+@[simp]
+theorem comul_single (i : ι) (r : R) : comul (Finsupp.single i r) =
+    (Finsupp.single i r) ⊗ₜ[R] (Finsupp.single i 1) := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Coalgebra.lean:110]:
```suggestion
theorem comul_single (i : ι) (r : R) :
    comul (Finsupp.single i r) = (Finsupp.single i r) ⊗ₜ[R] (Finsupp.single i 1) := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Coalgebra.lean (hunk 18 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: I extracted the `Prod` instance above to #8822

File: Mathlib/RingTheory/Coalgebra.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra.lean]: Done in #8868
